US07790728B2
N-[6-(1,3-Oxazol-5-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide
A mixture of N-(6-chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide (100 mg, 0.36 mmol) and 5-(tributylstannyl)-2-(triisopropylsilyl)-1,3-oxazole (397 mg, 0.73 mmol) in xylene (3 mL) was degassed with argon. The catalyst Pd(PPh3)4 (25 mg, 0.022 mmol, 6 mol %) was added and degassing was repeated. The mixture was heated to 90° C. in a sealed tube and stirred overnight. The mixture was cooled and ethyl acetate and HCl 2N were added. The aqueous layer was washed with ethyl acetate and then neutralized with 6N NaOH. The cloudy solution was extracted with CH2Cl2. The organic layer was dried and concentrated. The residue was purified by flash silica gel chromatography (dichloromethane/methanol 95:5) to give the title compound (36 mg, 35%) as a white solid.

reactant | N-(6-chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide | 0.36 mmol, 100 mg | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C13H11ClN4O
reactant | 5-(tributylstannyl)-2-(triisopropylsilyl)-1,3-oxazole | 0.73 mmol, 397 mg | C(CCC)[Sn](C1=CN=C(O1)[Si](C(C)C)(C(C)C)C(C)C)(CCCC)CCCC
solvent | xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd(PPh3)4 | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[6-(1,3-Oxazol-5-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide | 36 mg, 35% | O1C=NC=C1C1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C16H13N5O2
